US06953790B2
N-{(3R,6S)-6-(2,3-Difluorophenyl)-1-[2-(methylsulfonyl)ethyl]-2-oxoazepan-3-yl}-4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxamide
Triethylamine (0.010 mL, 0.023 mmol) was added to a solution of (3R,6S)-3-amino-6-(2,3-difluorophenyl)-1-[2-(methylsulfonyl)ethyl]azepan-2-one (8 mg, 0.023 mmol) and 4-nitrophenyl chloroformate (4.6 mg, 0.023 mmol) in tetrahydrofuran (0.700 mL) at 0° C. After 15 min, 2-oxo-1-(4-piperidinyl)-2,3-dihydro-1H-imidazo[4,5-b]pyridine dihydrochloride (6.7 mg, 0.023 mmol) and triethylamine (0.040 mL, 0.092 mmol) were added and the mixture allowed to warm to ambient temperature. After 16 h, the mixture was concentrated. Purification by reverse phase HPLC (C-18, 95% water/acetonitrile→5% water/acetonitrile with 0.1% trifluoroacetic acid) gave the title compound. MS 591 (M+1).

reactant | Triethylamine | 0.023 mmol, 0.010 mL | C(C)N(CC)CC | C6H15N
reactant | (3R,6S)-3-amino-6-(2,3-difluorophenyl)-1-[2-(methylsulfonyl)ethyl]azepan-2-one | 0.023 mmol, 8 mg | N[C@H]1C(N(C[C@@H](CC1)C1=C(C(=CC=C1)F)F)CCS(=O)(=O)C)=O | C15H20F2N2O3S
reactant | 4-nitrophenyl chloroformate | 0.023 mmol, 4.6 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 2-oxo-1-(4-piperidinyl)-2,3-dihydro-1H-imidazo[4,5-b]pyridine dihydrochloride | 0.023 mmol, 6.7 mg | Cl.Cl.O=C1N(C=2C(=NC=CC2)N1)C1CCNCC1
reactant | triethylamine | 0.092 mmol, 0.040 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 0.700 mL | O1CCCC1 | C4H8O
product | N-{(3R,6S)-6-(2,3-Difluorophenyl)-1-[2-(methylsulfonyl)ethyl]-2-oxoazepan-3-yl}-4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxamide | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C(N(C1)CCS(=O)(=O)C)=O)NC(=O)N1CCC(CC1)N1C(NC2=NC=CC=C21)=O | C27H32F2N6O5S
